US04643734
EXAMPLE IV--Preparation of 40/60 L-(-)-lactide/epsilon caprolactone copolymer
The procedure of Example II is repeated except that 20 grams of L-(-)-lactide, 30 grams of epsilon caprolactone and 0.0105 grams of pure stannous octoate are placed in a glass flask, blanketed with nitrogen, and heated for 45 hours at 140° to 142° C. The copolymer is tough and elastic and has good tensile strength and elongation properties. The copolymer has a GPC molecular weight of Mw =323,000 and Mn =180,000. DSC of the copolymer reveals a moderate amount of crystallinity with a melting point endo-therm of 42° C. and a glass transition temperature of -16° C. Physical properties of the polymer are shown in Table 1.

reactant | L-(-)-lactide | 20 grams | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | epsilon caprolactone | 30 grams | C1(CCCCCO1)=O | C6H10O2
reactant | stannous octoate | 0.0105 grams | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
product | L-(-)-lactide epsilon caprolactone | C[C@H]1C(=O)O[C@H](C(=O)O1)C.C1(CCCCCO1)=O | InChI=1S/C6H8O4.C6H10O2/c1-3-5(7)10-4(2)6(8)9-3;7-6-4-2-1-3-5-8-6/h3-4H,1-2H3;1-5H2/t3-,4-;/m0./s1
